US04098791
In the manner given in Example 1, N-methylpiperazine is treated with cyanogen bromide and aqueous sodium hydroxide to give 4-methyl-1-piperazinecarbonitrile.

reactant | N-methylpiperazine | CN1CCNCC1 | C5H12N2
reactant | cyanogen bromide | N#CBr | CBrN
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-methyl-1-piperazinecarbonitrile | CN1CCN(CC1)C#N | C6H11N3
